6
R0102 1 2 0 -0.7 0 0.4 0 -0.2 0 0.027
R0301 3 1 1
R0403 4 3 1
R0004 0 4 1
R0502 5 2 1
R0605 6 5 1
O0300 3 0 1 0
O0600 6 0 5 4
V0200 2 0 DC 1
.TRAN 5E-3 5E-6 BE 1
